US06303266B1
1-Adamantanol and acrylic acid chloride were subjected to desalting reaction by using a basic catalyst to obtain adamantyl acrylate (Compound (III-h)).

reactant | 1-Adamantanol | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | acrylic acid chloride | C(C=C)(=O)Cl | C3H3ClO
product | adamantyl acrylate | C(C=C)(=O)OC12CC3CC(CC(C1)C3)C2 | C13H18O2
